### PR TITLE
feat(ErdosProblems): 617

### LINKED ISSUE #832: Erdős Problem 617
### What is the conjecture
    
https://www.erdosproblems.com/617

  Let $r\geq 3$. If the edges of $K_{r^2+1}$ are $r$-coloured then there exist $r+1$ vertices with at least one colour missing on the edges of the induced $K_{r+1}$.
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #832 

Formalizes Erdos Problem 617: https://www.erdosproblems.com/617

### CODE REVIEW

File: FormalConjectures/ErdosProblems/617.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+-/
+
+namespace Erdos617
+
+/--
+Let $r\geq 3$. If the edges of $K_{r^2+1}$ are $r$-coloured then there exist $r+1$ vertices with at
+least one colour missing on the edges of the induced $K_{r+1}$.
+
+In other words, there is no balanced colouring.
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean:37]:
```suggestion
In other words, there is no balanced colouring.

A conjecture of Erdős and Gyárfás [ErGy99]
-/
```

File: FormalConjectures/ErdosProblems/617.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+theorem erdos_617 (r : ℕ) (hr : r ≥ 3) :
+  ∀ (V : Type) [Fintype V] [DecidableEq V], Fintype.card V = r^2 + 1 →
+  ∀ (coloring : Sym2 V → Fin r),
+    ∃ (S : Finset V) (k : Fin r),
+      S.card = r + 1 ∧
+      ∀ u ∈ S, ∀ v ∈ S, u ≠ v → coloring s(u, v) ≠ k := by
+  sorry
+
+/--
+A conjecture of Erdős and Gyárfás [ErGy99] proved the conjecture for $r=3$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
Erdős and Gyárfás [ErGy99] proved the conjecture for $r=3$.
```

File: FormalConjectures/ErdosProblems/617.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+theorem erdos_617.variant.r_eq_3 :
+  ∀ (V : Type) [Fintype V] [DecidableEq V], Fintype.card V = 3^2 + 1 →
+  ∀ (coloring : Sym2 V → Fin 3),
+    ∃ (S : Finset V) (k : Fin 3),
+      S.card = 3 + 1 ∧
+      ∀ u ∈ S, ∀ v ∈ S, u ≠ v → coloring s(u, v) ≠ k := by
+  sorry
+
+/--
+A conjecture of Erdős and Gyárfás [ErGy99] proved the conjecture for $r=4$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
Erdős and Gyárfás [ErGy99] proved the conjecture for $r=4$.
```

File: FormalConjectures/ErdosProblems/617.lean [hunk 4]
```diff
@@ -0,0 +1,81 @@
...
+theorem erdos_617.variant.r_eq_4 :
+  ∀ (V : Type) [Fintype V] [DecidableEq V], Fintype.card V = 4^2 + 1 →
+  ∀ (coloring : Sym2 V → Fin 4),
+    ∃ (S : Finset V) (k : Fin 4),
+      S.card = 4 + 1 ∧
+      ∀ u ∈ S, ∀ v ∈ S, u ≠ v → coloring s(u, v) ≠ k := by
+  sorry
+
+/--
+A conjecture of Erdős and Gyárfás [ErGy99] showed this property fails for infinitely many $r$ if we
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
Erdős and Gyárfás [ErGy99] showed this property fails for infinitely many $r$ if we
```

File: FormalConjectures/ErdosProblems/617.lean [hunk 5]
```diff
@@ -0,0 +1,81 @@
...
+      S.card = r + 1 ∧
+      ∀ u ∈ S, ∀ v ∈ S, u ≠ v → coloring s(u, v) ≠ k := by
+  sorry
+
+/--
+A conjecture of Erdős and Gyárfás [ErGy99] proved the conjecture for $r=3$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_617.variant.r_eq_3 :
+  ∀ (V : Type) [Fintype V] [DecidableEq V], Fintype.card V = 3^2 + 1 →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
  ∀ {V : Type} [Fintype V] [DecidableEq V], Fintype.card V = 3^2 + 1 →
```

File: FormalConjectures/ErdosProblems/617.lean [hunk 6]
```diff
@@ -0,0 +1,81 @@
...
+      S.card = 3 + 1 ∧
+      ∀ u ∈ S, ∀ v ∈ S, u ≠ v → coloring s(u, v) ≠ k := by
+  sorry
+
+/--
+A conjecture of Erdős and Gyárfás [ErGy99] proved the conjecture for $r=4$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_617.variant.r_eq_4 :
+  ∀ (V : Type) [Fintype V] [DecidableEq V], Fintype.card V = 4^2 + 1 →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
  ∀ {V : Type} [Fintype V] [DecidableEq V], Fintype.card V = 4^2 + 1 →
```

**Review by mo271 — APPROVED** [review]
LGTM, just some minor comments

File: FormalConjectures/ErdosProblems/617.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean:37]: Done.

File: FormalConjectures/ErdosProblems/617.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean (hunk 5 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean (hunk 6 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean [hunk 7]
```diff
@@ -0,0 +1,83 @@
...
+least one colour missing on the edges of the induced $K_{r+1}$.
+
+In other words, there is no balanced colouring.
+
+A conjecture of Erdős and Gyárfás [ErGy99].
+-/
+@[category research open, AMS 5]
+theorem erdos_617 (r : ℕ) (hr : r ≥ 3) :
+  ∀ {V : Type} [Fintype V] [DecidableEq V], Fintype.card V = r^2 + 1 →
+  ∀ (coloring : Sym2 V → Fin r),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
theorem erdos_617 (r : ℕ) (hr : r ≥ 3) {V : Type} [Fintype V] [DecidableEq V]
    (hV : Fintype.card V = r^2 + 1) (coloring : Sym2 V → Fin r) :
```

Comment (danielchin) [reply FormalConjectures/ErdosProblems/617.lean]: Done.

File: FormalConjectures/ErdosProblems/617.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+/--
+Erdős and Gyárfás [ErGy99] showed this property fails for infinitely many $r$ if we replace $r^2+1$
+by $r^2$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_617.variant.r2 :
+  {r : ℕ | ∃ (V : Type) (_ : Fintype V) (_ : DecidableEq V), Fintype.card V = r^2 ∧
+    ∃ (coloring : Sym2 V → Fin r),
+      ∀ (S : Finset V), S.card = r + 1 →
+        ∀ (k : Fin r), ∃ u ∈ S, ∃ v ∈ S, u ≠ v ∧ coloring s(u, v) = k}.Infinite := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/617.lean]:
```suggestion
    {r : ℕ | ∃ (V : Type) (_ : Fintype V) (_ : DecidableEq V), Fintype.card V = r^2 ∧
      ∃ (coloring : Sym2 V → Fin r),
        ∀ (S : Finset V), S.card = r + 1 →
          ∀ (k : Fin r), ∃ u ∈ S, ∃ v ∈ S, u ≠ v ∧ coloring s(u, v) = k}.Infinite := by
```

**Comment by mo271** [comment]
Thanks!
